US07919519B2
10% Palladium on carbon, 50% water wet (1.43 g, 1.34 mmol) and 2-nitro-4-phenoxyphenol (3.10 g, 13.4 mmol) were combined under nitrogen and 30 mL MeOH was added. The mixture was exposed to H2 from a balloon and was stirred rapidly overnight. In the morning the reaction was flushed with nitrogen and filtered and concentrated in vacuo to give 2-amino-4-phenoxyphenol as a light brown solid. MS (ESI) m/z: Calculated: 201.1; Observed: 202.1 (M++1).

reactant | water | 1.34 mmol, 1.43 g | O | H2O
reactant | 2-nitro-4-phenoxyphenol | 13.4 mmol, 3.10 g | [N+](=O)([O-])C1=C(C=CC(=C1)OC1=CC=CC=C1)O | C12H9NO4
catalyst | Palladium on carbon | [Pd] | Pd
solvent | MeOH | 30 mL | CO | CH4O
product | 2-amino-4-phenoxyphenol | NC1=C(C=CC(=C1)OC1=CC=CC=C1)O | C12H11NO2
